US07662972B2
Step 3: Production of 5-(3,5-dichlorophenyl)-3-(3-fluoro-4-hydroxymethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
In a solution of 1.50 g of crude 3-(4-acetoxymethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 10 ml of ethanol, 2.00 g of sodium hydroxide dissolved in 20 ml of water was added, and stirred under reflux with heat for 4.5 hours. After the completion of the reaction, the reaction mixture was cooled with ice, and adjusted to pH 2-3 by carefully adding concentrated hydrochloric acid, and extracted with ethyl acetate (50 ml×1). The organic phase was dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:2) to obtain 0.95 g of the aimed product as pale yellow resinous substance.

reactant | sodium hydroxide | 2.00 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 3-(4-acetoxymethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.50 g | C(C)(=O)OCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)F | C19H13Cl2F4NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 5-(3,5-dichlorophenyl)-3-(3-fluoro-4-hydroxymethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 0.95 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)CO)F)C(F)(F)F | C17H11Cl2F4NO2
